* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 1.80k
R3 N002 N001 4.70k
R1 N003 N002 120.00k
R4 N001 N002 150.00k
R5 N003 N001 22.00k
V1 0 N003 30

.end